### PR TITLE
Formally based interpreter

### PR DESCRIPTION
**Pull request by MTLEVR**
Draft pull request for the formally verified Erlang Interpreter

### CODE REVIEW

File: src/Interpreter/Closedness.v
Comment (berpeti) [inline src/Interpreter/Closedness.v:1]: Please rename this file as `ClosednessLemmas.v`, and move it to `src/CoreErlang/Concurrent` because I don't see anything interpreter-specific in it!

File: src/Interpreter/EqualityFunctions.v
Comment (berpeti) [inline src/Interpreter/EqualityFunctions.v:1]: This file also should be moved to `src`, and I think, it only requires `Syntax.v`. The name could be `StrictEqualities.v`. The last 3 items (1 definition, 2 lemmas) about signals should be moved to `ProcessSemantics.v`.

File: src/Interpreter/Equivalences.v [hunk 1]
```diff
@@ -0,0 +1,859 @@
...
+           ++ inv H0.
+              apply eval_cool_params_0 with (l := None). discriminate.
+              simpl. rewrite H'. reflexivity.
+           ++ inv H0.
+              apply eval_cool_params_0 with (l := None). discriminate.
+              simpl. rewrite H'. reflexivity.
+      - destruct ident; try discriminate; simpl in H; inv H; constructor; discriminate.
+Qed.
+
+Lemma VLit_val_eq: forall v l, v =ᵥ VLit l = true -> v = VLit l.
```
Comment (berpeti) [inline src/Interpreter/Equivalences.v:110]: Please move this (and the next) lemma into `Equalities.v`!

File: src/Interpreter/Equivalences.v [hunk 2]
```diff
@@ -0,0 +1,859 @@
...
+           destruct (bool_from_lit v) eqn:Hbflv;try discriminate.
+           inv H. constructor. symmetry. assumption.
+        ** destruct (f =? "recv_peek_message")%string eqn:Hrpm;[|congruence].
+           apply String.eqb_eq in Hrpm. subst f.
+           destruct vl; try discriminate. destruct r; try discriminate.
+           destruct (peekMessage m) eqn:Hpm; try discriminate.
+           inv H. constructor. assumption.
+Qed.
+
+Lemma usedInEtherCorrect: forall ι' ether, ¬appearsEther ι' ether -> usedInEther ι' ether = false.
```
Comment (berpeti) [inline src/Interpreter/Equivalences.v:546]: Please move this lemma to `NodeSemanticsLemmas.v`!

File: src/Interpreter/Equivalences.v [hunk 3]
```diff
@@ -0,0 +1,859 @@
...
+        ** setoid_rewrite (lookup_insert_ne _ _ _ _ n) in H0.
+           apply H0 in H. assumption.
+      - clear -H1 H2. intros contra. destruct contra. do 3 destruct H.
+        apply H1. exists x0, x1, x2. split;[|assumption].
+        destruct (decide (i = (x0, x1))).
+        ** subst i. setoid_rewrite H2 in H. discriminate.
+        ** setoid_rewrite (lookup_insert_ne _ _ _ _ n). assumption.
+Qed.
+
+Lemma usedInEtherComplete: forall ι' ether, usedInEther ι' ether = false -> ¬appearsEther ι' ether.
```
Comment (berpeti) [inline src/Interpreter/Equivalences.v:605]: Please move this lemma to `NodeSemanticsLemmas.v`!

File: src/Interpreter/Equivalences.v [hunk 4]
```diff
@@ -0,0 +1,859 @@
...
+         apply IHether in H4; auto.
+         clear IHether.
+         destruct (decide (i = (x, x0))).
+         ++ subst i.
+            setoid_rewrite elem_of_union in H3. apply not_or_and in H3. destruct H3.
+            setoid_rewrite lookup_insert in H. inv H. contradiction.
+         ++ setoid_rewrite (lookup_insert_ne _ _ _ _ n) in H. assumption.
+Qed.
+
+Lemma usedInPoolCorrect: forall prs ι', ¬ isUsedPool ι' prs -> usedInPool ι' prs = false.
```
Comment (berpeti) [inline src/Interpreter/Equivalences.v:668]: Please move this lemma to `NodeSemanticsLemmas.v`!

File: src/Interpreter/Equivalences.v [hunk 5]
```diff
@@ -0,0 +1,859 @@
...
+        ** setoid_rewrite (lookup_insert_ne _ _ _ _ n) in H. contradiction.
+      - clear -H1 H0. intros contra.
+        destruct contra, H, H.
+        destruct (decide (i = x0)).
+        ** subst i. setoid_rewrite H in H1. congruence.
+        ** apply H0. exists x0, x1. split;auto.
+           setoid_rewrite (lookup_insert_ne _ _ _ _ n). assumption.
+Qed.
+
+Lemma usedInPoolComplete: forall prs ι', usedInPool ι' prs = false -> ¬ isUsedPool ι' prs.
```
Comment (berpeti) [inline src/Interpreter/Equivalences.v:704]: Please move this lemma to `NodeSemanticsLemmas.v`!

File: src/Interpreter/ExampleASTs/coqAST/decode.v
Comment (berpeti) [inline src/Interpreter/ExampleASTs/coqAST/decode.v:1]: Either in these files, or in a README of this folder, refer to the Erlang code from which these were obtained (i.e., `https://github.com/cstavr/erllvm-bench/tree/master/src/small`)

File: src/Interpreter/HaskellSrc/Interpreter.cabal [hunk 6]
```diff
@@ -0,0 +1,111 @@
...
+version:            0.1.0.0
+
+-- A short (one-line) description of the package.
+-- synopsis:
+
+-- A longer description of the package.
+-- description:
+
+-- The license under which the package is released.
+license:            BSD-3-Clause
```
Comment (berpeti) [inline src/Interpreter/HaskellSrc/Interpreter.cabal:32]: I don't think, this is correct. If this is required, use LGPL-3.0, because that is the license of this repository.

File: src/Interpreter/HaskellSrc/LICENSE
Comment (berpeti) [inline src/Interpreter/HaskellSrc/LICENSE:1]: This also has to be adjusted to LGPL-3.0. But I think, this file is not necessary, because it is already included in the parent folder.

File: src/Interpreter/HaskellSrc/exe/CoqExtraction.hs
Comment (berpeti) [inline src/Interpreter/HaskellSrc/exe/CoqExtraction.hs:1]: What's the difference between this file, and [src/Interpreter/HaskellSrc/QuickCheck/CoqExtractionReplaced.hs](https://github.com/harp-project/Core-Erlang-Formalization/pull/44/files#diff-20ae6a7a0dffade9a0c1ca1c19a1a4480d873d922f0081903b1e433330ec1d1f)?

File: src/Interpreter/HaskellSrc/exe/InterpreterDeprecated.hs
Comment (berpeti) [inline src/Interpreter/HaskellSrc/exe/InterpreterDeprecated.hs:1]: Do we need this version?

File: src/Interpreter/HaskellSrc/execution_data/length/Length_imp_subst.eventlog
Comment (berpeti) [inline src/Interpreter/HaskellSrc/execution_data/length/Length_imp_subst.eventlog:1]: Is this file required? Are the profiling data files needed? Are those auto-generated by some script?

File: src/Interpreter/EqualityFunctions.v
Comment (MTLEVR) [reply src/Interpreter/EqualityFunctions.v:1]: I've moved the file in e212a4a and moved the last 3 items in f81bd4d

File: src/Interpreter/Equivalences.v (hunk 1 above)
Comment (MTLEVR) [reply src/Interpreter/Equivalences.v]: I've moved them in a75cfd2

File: src/Interpreter/Equivalences.v (hunk 2 above)
Comment (MTLEVR) [reply src/Interpreter/Equivalences.v]: Moved in 106357d 
Removed from old file in 42961c8

File: src/Interpreter/Equivalences.v (hunk 3 above)
Comment (MTLEVR) [reply src/Interpreter/Equivalences.v]: Moved in 106357d 
Removed from old file in 42961c8

File: src/Interpreter/Equivalences.v (hunk 5 above)
Comment (MTLEVR) [reply src/Interpreter/Equivalences.v]: Moved in 106357d 
Removed from old file in 42961c8

File: src/Interpreter/ExampleASTs/preprocess_filenames.sh [hunk 7]
```diff
@@ -0,0 +1,26 @@
+#!/bin/bash
+
```
[the remark this answers is not in the document]
Comment (MTLEVR) [reply src/Interpreter/ExampleASTs/preprocess_filenames.sh:2]: I wrote a comment on the script + I only wrote one for the other processing script in HaskellSrc (53bdbb1)

File: src/Interpreter/HaskellSrc/CHANGELOG.md
[the remark this answers is not in the document]
Comment (MTLEVR) [reply src/Interpreter/HaskellSrc/CHANGELOG.md:1]: It is not needed, so I deleted it (4bcb67f)

File: src/Interpreter/HaskellSrc/LICENSE
Comment (MTLEVR) [reply src/Interpreter/HaskellSrc/LICENSE:1]: The file is not necessary for building, do it got deleted (4bcb67f)

File: src/Interpreter/HaskellSrc/Interpreter.cabal (hunk 6 above)
Comment (MTLEVR) [reply src/Interpreter/HaskellSrc/Interpreter.cabal]: The license field is required for compilation, so I've changed it to LGPL-3.0-only (ab8c26d)

File: src/Interpreter/ExampleASTs/coqAST/decode.v
Comment (MTLEVR) [reply src/Interpreter/ExampleASTs/coqAST/decode.v:1]: I've put a README in ExampleASTs (maybe I should've put it in coqASTs now that I'm thinking about it). I've also put a link to the pretty-printer. Addressed in b1dd5b3

Also, I noticed that 2 ASTs were missing, so I added them (d377555).
